US05663053
1-(10-carboxydecyl)-2,4,5-triphenylimidazole
1-(10-Ethoxycarbonyldecyl)-2,4,5-triphenylimidazole (1.3 g) was reacted with 2N sodium hydroxide in a method similar to Example 10 to give, after colnmn chromatography on silica gel eluted with a dichloro-methane:methanol gradient and recrystallisation from ethyl acetate/hexane, 1-(10-carboxydecyl)-2,4,5-triphenylimidazole (0.25 g, 19.2%) as a cream solid, m.p. 76°-78°; Found: C, 79.68%; H, 7.56%; N, 5.78%; C32H36N2O2 requires: C, 79.96%; H, 7.55; N, 5.83%.

reactant | 1-(10-Ethoxycarbonyldecyl)-2,4,5-triphenylimidazole | 1.3 g | C(C)OC(=O)CCCCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H40N2O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 1-(10-carboxydecyl)-2,4,5-triphenylimidazole | C(=O)(O)CCCCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H36N2O2
